* Z:\home\anagix\work\2020SepTO\NiiokaOpAmp\opamp_k_niioka_20200903.asc
M1 N002 N001 Vdd Vdd pch l=3u w=100u
M2 N001 N001 Vdd Vdd pch l=3u w=100u
M4 N001 in+ N004 0 nch l=1u w=400u
M5 N002 in- N004 0 nch l=1u w=400u
M6 N004 N003 0 0 nch l=2.5u w=120u
M7 N003 N003 0 0 nch l=2.5u w=10u
M8 out N003 0 0 nch l=1u w=120u
M3 out N002 Vdd Vdd pch l=1u w=240u
C1 N002 out 3p
R1 N003 Vb 4k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include "./models/OR1_mos"
.tran 10m
.backanno
.end
